US06911465B1
Methyl N-(3,4-dichlorobenzyl)-4-(dimethylcarbamyloxy)indole-2-carboxylate (Methyl ester of Compound 10)
Dimethylcarbamyl chloride (83 mg) was added to a stirred solution of methyl N-(3,4-dichlorobenzyl)-4-hydroxyindole-2-carboxylate (150 mg), triethylamine (65 mg) and DMAP (5 mg) in dichloromethane. The reaction was stirred for 16 hours at room temperature under an atmosphere of nitrogen. The reaction was washed with hydrochloric acie (2M, 70 ml), saturated aqueous sodium hydrogencarbonate solution, water and saturated sodium chloride solution. Combined organic extracts were dried (MgSO4), concentrated in vacuo and the residue purified by column chromatography using 60% ethyl acetate:iso-hexane as eluent to give the product as a colourless gum (132 mg,74%); NMR d (CD3SOCD3) 2.94 (s, 3H), 3.12 (s, 3H), 3.81 (s, 3H), 5.82 (s, 2H), 6.91 (m, 2H), 7.21 (s, 1H), 7.27-7.36 (m, 2H), 7.46 (d, 1H), 7.52 (d, 1H); M/z (+) 421 (MH+).

reactant | Dimethylcarbamyl chloride | 83 mg | CN(C(=O)Cl)C | C3H6ClNO
reactant | methyl N-(3,4-dichlorobenzyl)-4-hydroxyindole-2-carboxylate | 150 mg | ClC=1C=C(CN2C(=CC3=C(C=CC=C23)O)C(=O)OC)C=CC1Cl | C17H13Cl2NO3
reactant | triethylamine | 65 mg | C(C)N(CC)CC | C6H15N
catalyst | DMAP | 5 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloromethane | ClCCl | CH2Cl2
product | Methyl N-(3,4-dichlorobenzyl)-4-(dimethylcarbamyloxy)indole-2-carboxylate | 132 mg, 74% | ClC=1C=C(CN2C(=CC3=C(C=CC=C23)OC(N(C)C)=O)C(=O)OC)C=CC1Cl | C20H18Cl2N2O4
